US07342115B2
(1,2,3,4-Tetrahydro-naphthalen-1-yl)-carbamic acid ethyl ester (5.0 g, 22.8 mmol) is added slowly under nitrogen to a suspension of LiAlH4 (2.6 g, 68 mmol) in THF (50 mL). The resulting mixture is heated at 75° C. with stirring for 2 hours. On cooling, Na2SO4.10H2O (15.0 g) and ether (100 mL) are added to the mixture. The resulting mixture is stirred at room temperature for 1 hour, filtered through celite, and concentrated in vacuo. 1 N HCl (20 mL) and ether (20 ML) are added to the residue. The organic layer is separated and discarded. The aqueous layer is basified with 1 N NaOH and extracted with CH2Cl2 (2×25 mL). The combined extract is washed with water (2×), dried (Na2SO4) and concentrated to give (S)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine as an oil. [α]RT=−10.6 (0.02, EtOH). 1H NMR (CDCl3) 7.30 (m, 1H), 7.06-7.20 (m, 3H), 3.66 (t, 1H), 2.78 (m, 2H), 2.50 (s, 3H), 1.70-2.00 (m, 4H).

reactant | (1,2,3,4-Tetrahydro-naphthalen-1-yl)-carbamic acid ethyl ester | 22.8 mmol, 5.0 g | C(C)OC(NC1CCCC2=CC=CC=C12)=O | C13H17NO2
reactant | LiAlH4 | 68 mmol, 2.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | CN[C@H]1CCCC2=CC=CC=C12 | C11H15N
